US06919365B2
5,5-Dimethyl-3-naphthylsulfonyl imidazolidine-2,4-dione (Compound 18)
5,5-Dimethylimidazolidine-2,4-dione (1.28 g) was dissolved in tetrahydrofuran (20 mL), and sodium hydride (60%, in oil) (0.25 g) was added at 0° C. under ice-cooling. After stirred for 30 minutes, 1-naphthalene sulfonyl chloride (2.38 g) was added at 0° C., and the mixture was stirred at room temperature overnight. After the solvent was distilled off, 150 mL of ethyl acetate was added to the reaction solution, and the solution was washed with 1N hydrochloric acid, an aqueous saturated sodium bicarbonate solution and a saturated brine in turn. The solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off. Further purification by silica gel chromatography (hexane:ethyl acetate=2:1) afforded 369 mg of white crystals.

reactant | 5,5-Dimethylimidazolidine-2,4-dione | 1.28 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | 1-naphthalene sulfonyl chloride | 2.38 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5,5-Dimethyl-3-naphthylsulfonyl imidazolidine-2,4-dione | 369 mg | CC1(C(N(C(N1)=O)S(=O)(=O)C1=CC=CC2=CC=CC=C12)=O)C | C15H14N2O4S
